US09216968B2
The mixture of methyl 5-(bromomethyl)-2-chlorobenzoate (prepared as described in WO2010/132999) (0.2 g), potassium carbonate (0.21 g), EtOH (3 mL) and THF (3 mL) was stirred at 80° C. for 4 hours. The reaction mixture was cooled to room temperature, water was then added, and the mixture was extracted with ethyl acetate. The organic layer was separated and washed with brine, and dried over magnesium sulfate and concentrated in vacuo. The residue was purified on column chromatography to obtain ethyl 2-chloro-5-(ethoxymethyl)benzoate (0.15 g). This was dissolved in THF-MeOH—H2O (3:3:2, 8 mL), and lithium hydroxide hydrate (0.15 g) was added, and the mixture was stirred at room temperature for 14 hours. The reaction mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated in vacuo to obtain the titled compound (0.12 g) as pale yellow oil.

reactant | methyl 5-(bromomethyl)-2-chlorobenzoate | 0.2 g | BrCC=1C=CC(=C(C(=O)OC)C1)Cl | C9H8BrClO2
reactant | potassium carbonate | 0.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOH | 3 mL | CCO | C2H6O
reactant | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | ethyl 2-chloro-5-(ethoxymethyl)benzoate | 0.15 g | ClC1=C(C(=O)OCC)C=C(C=C1)COCC | C12H15ClO3
